US04170465
37.1 g of diketene were added with stirring over 15 minutes to a mixture of 50 g of cycloheptylamine and 600 ml of tetrahydrofuran cooled to 6° C. and the mixture was stirred for 4 hours at room temperature. The mixture was distilled to dryness under reduced pressure and the residue was chromatographed over silica gel with elution with an 8-2 methylene chloride-acetone mixture to obtain 60 g of N-cycloheptyl-acetylacetamide melting at 52° C. 40 g of the said product and 1 g of p-toluene sulfonic acid were added to a mixture of 32 g of methyl orthoformate and 100 ml of methanol and after stirring the mixture for 8 hours at room temperature, 2 ml of quinoline were added thereto. The mixture was distilled to dryness under reduced pressure and the residue was added to toluene. The mixture was heated at 145° C. for 4 hours while distilling a toluene-methanol azeotrope. The toluene was evaporated by distillation under reduced pressure and the residue was chromatographed over silica gel. An 8-2 methylene chloride-methanol mixture was the eluant and the product was empasted with isopropyl ether to obtain 22 g of N-cycloheptyl-3-methoxy-crotonamide melting at 120° C. The RMN spectra showed the product to be the E isomer.

reactant | p-toluene sulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methyl orthoformate | 32 g | C(OC)([O-])[O-]
reactant | quinoline | 2 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | methanol | 100 ml | CO | CH4O
product | N-cycloheptyl-3-methoxy-crotonamide | 22 g | C1(CCCCCC1)NC(\C=C(\C)/OC)=O | C12H21NO2
